US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-[(6R)-hexahydro-5-oxo-1,4-thiazepin-6-yl]-1-piperazinecarboxamide
As described for example 78, (6S)-6-aminotetrahydro-1,4-thiazepin-5(2H)-one, p-nitrophenyl chloroformate, diisopropylethyl amine, and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product. LC-MS: 434 (M++1). 1H NMR (CDCl3) δ 2.55–2.95 (m, 4), 3.0–3.25 (m, 4H), 3.6–3.9 (m, 6H), 4.8–5.0 (m, 3H), 6.1–6.2 (s, 1H), 6.2–6.4 (m, 2H), 7.1–7.24 (m, 1H), 7.6 (s, 1H), 7.7–7.8 (m, 1H).

reactant | (6S)-6-aminotetrahydro-1,4-thiazepin-5(2H)-one | N[C@H]1C(NCCSC1)=O | C5H10N2OS
reactant | p-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-[(6R)-hexahydro-5-oxo-1,4-thiazepin-6-yl]-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(NCCSC1)=O)Cl | C19H23ClN6O2S
